US08084477B2
Step E. (R)-2-Amino-5,5,5-trifluoropentanamide hydrochloride
To a suitable pressure vessel, (R)-5,5,5-trifluoro-2-((R)-1-phenylethylamino)-pentanamide hydrochloride (1.50 kg) was charged along with methanol (15.0 L). This was followed by the addition of water (701.0 mL) followed by 20% palladium hydroxide on carbon (225 g). Similarly, palladium on carbon (Pd/C) could be used as the hydrogenation catalyst. The vessel was flushed with nitrogen three times, and then hydrogen gas was pressurized into the vessel (3-4 kg/cm2) at 60° C. The reaction was monitored for completion by HPLC. Upon completion, the reaction mixture was allowed to cool to 30-35° C. and filtered through a Celite pad, then washed with methanol. The filtrate was then concentrated under reduced pressure. After complete concentration, the remaining reaction mixture was treated with dichloromethane (2.5 L per wash), filtered and dried at 45° C. for 12 hours, giving the title compound (915 g, 91.0%; Purity=97%). 1H NMR (DMSO-d6) (400 MHz) δ 2.00 (m, 2H, CH2), 2.30-2.40 (m, 2H of CH2—CF3), 3.85-3.88 (m,1H, —(CONH2)CH(NH), 7.64 & 8.11 (br s, 1H, each of CONH2), 8.44 (br s, 3H, NH3+). 13C NMR (DMSO-d6) (100.0 MHz) δ 169.57, 131.20, 128.45, 125.71, 122.97, 50.91, 29.46, 29.18, 28.89, 28.61, 23.56, 23.53.

reactant | (R)-5,5,5-trifluoro-2-((R)-1-phenylethylamino)-pentanamide hydrochloride | 1.50 kg | Cl.FC(CC[C@H](C(=O)N)N[C@H](C)C1=CC=CC=C1)(F)F
reactant | methanol | 15.0 L | CO | CH4O
reactant | water | 701.0 mL | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
catalyst | palladium hydroxide on carbon | 225 g | [OH-].[OH-].[Pd+2]
solvent | dichloromethane | 2.5 L | ClCCl | CH2Cl2
product | (R)-2-Amino-5,5,5-trifluoropentanamide hydrochloride | 915 g, 91.0% | Cl.N[C@@H](C(=O)N)CCC(F)(F)F | InChI=1S/C5H9F3N2O.ClH/c6-5(7,8)2-1-3(9)4(10)11;/h3H,1-2,9H2,(H2,10,11);1H/t3-;/m1./s1
